US09085527B2
The TFA salt of 1-(2-aminoethyl)-1H-pyrrole-2,5-dione (Aldrich, 280 mg, 1.10 mmol) was taken up in CH3CN (10 mL) along with (4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenoic acid (360 mg, 1.1 mmol), HATU (460 mg, 1.2 mmol) and DIEA (0.58 mL). The resulting reaction mixture was stirred at room temperature for 3 h. It was then diluted with EtOAc and washed successively with saturated aqueous NaHCO3 and brine. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. Purification by chromatography (CH2Cl2) afforded (4Z,7Z,10Z,13Z,16Z,19Z)—N-(2-(2,5-dioxo-2H-pyrrol-1(5H)-yl)ethyl)docosa-4,7,10,13,16,19-hexaenamide (350 mg, 70%).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 1-(2-aminoethyl)-1H-pyrrole-2,5-dione | 1.10 mmol, 280 mg | NCCN1C(C=CC1=O)=O | C6H8N2O2
reactant | (4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenoic acid | 1.1 mmol, 360 mg | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)O | C22H32O2
reactant | HATU | 1.2 mmol, 460 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.58 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4Z,7Z,10Z,13Z,16Z,19Z)—N-(2-(2,5-dioxo-2H-pyrrol-1(5H)-yl)ethyl)docosa-4,7,10,13,16,19-hexaenamide | 350 mg, 70% | O=C1N(C(C=C1)=O)CCNC(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)=O | C28H38N2O3
